US04203909
N-Cyano-N'-(2-propyn-1-yl)-N"-{2-[(5-methylaminomethyl-2-furyl)methylthio]ethyl}guanidine
A mixture of N-cyano-N'-{2-[(5-methylaminomethyl-2-furyl)methylthio]ethyl}-S-methylisothiourea [prepared according to the procedure described in Belgian Pat. No. 857,388] and propargylamine in methanol is stirred and heated under a positive pressure of nitrogen to give, after workup and chromatography, the title compound.

reactant | N-cyano-N'-{2-[(5-methylaminomethyl-2-furyl)methylthio]ethyl}-S-methylisothiourea | C(#N)NC(SC)=NCCSCC=1OC(=CC1)CNC | C12H18N4OS2
reactant | propargylamine | C(C#C)N | C3H5N
solvent | methanol | CO | CH4O
product | N-Cyano-N'-(2-propyn-1-yl)-N"-{2-[(5-methylaminomethyl-2-furyl)methylthio]ethyl}guanidine | C(#N)NC(=NCCSCC=1OC(=CC1)CNC)NCC#C | C14H19N5OS
